US06090531
122 g of 4-hydroxybenzaldehyde and 30 g of acetone were added to 300 ml of methanol. To the mixture was then added 10 g of methanesulfonic acid. The reaction mixture was then stirred at a temperature of 70° C. for 4 hours. To the reaction solution was then added gradually 1,000 ml of distilled water to obtain bis(4-hydroxystyryl)ketone in the form of yellow crystal. 50 g of the yellow crystal was then dissolved in 200 ml of methanol. To the solution was then added 100 ml of a 10% aqueous solution of sodium hydroxide. To the reaction solution was then added dropwise 50 ml of a 37% aqueous solution of formalin in 30 minutes in such a manner that the temperature of the reaction solution didn't exceed 40° C. The reaction solution was stirred for 10 hours, and then neutralized with acetic acid. The resulting yellow powder was then recovered by filtration. The crude crystal was then recrystallized from methanol. (Yield: 54%)

reactant | 4-hydroxybenzaldehyde | 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetone | 30 g | CC(=O)C | C3H6O
reactant | methanol | 300 ml | CO | CH4O
reactant | methanesulfonic acid | 10 g | CS(=O)(=O)O | CH4O3S
solvent | water | 1,000 ml | O | H2O
product | bis(4-hydroxystyryl)ketone | Yield: 54% | OC1=CC=C(C=CC(=O)C=CC2=CC=C(C=C2)O)C=C1 | C17H14O3
